US07585885B2
N-Methyl-5-(1-methyl-1H-imidazol-2-yl)-N-propyl-isophthalamic acid
Dissolve N-methyl-5-(1-methyl-1H-imidazol-2-yl)-N-propyl-isophthalamic acid methyl ester (100 mg, 0.32 mmol) in methanol (10 mL). Dropwise add 1 N lithium hydroxide (0.38 mL) and stir overnight at room temperature. Add 2 N NaOH (0.1 mL) and stir for 48 h at room temperature. Acidify the mixture to about pH=6 by DOWEX® 50WX2-100 ion exchange resin and filter. Concentrate filtrate and lyophilize (1:1 acetonitrile:water) to give the title compound.

reactant | N-methyl-5-(1-methyl-1H-imidazol-2-yl)-N-propyl-isophthalamic acid methyl ester | 0.32 mmol, 100 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C=1N(C=CN1)C)=O | C17H21N3O3
reactant | lithium hydroxide | 1 N, 0.38 mL | [OH-].[Li+]
reactant | NaOH | 2 N, 0.1 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | N-Methyl-5-(1-methyl-1H-imidazol-2-yl)-N-propyl-isophthalamic acid | CN(C(C=1C=C(C(=O)O)C=C(C1)C=1N(C=CN1)C)=O)CCC | C16H19N3O3
